Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Tylenol-Codeine
 
Attending: ___.
 
Chief Complaint:
intra-abdominal abscesses

 
Major Surgical or Invasive Procedure:
___ drainage of intra-abdominal abscesses

 
History of Present Illness:
___ w/ T3N0 colon adenoCA s/p open extended right hemicolectomy 
with end ileostomy on ___ (Dr. ___ now seen in ___ ED 
with complaints of cough and phlegm in his throat. Workup while 
in the ED has been notable for a WBC of 17.2 with left shift, 
normal CXR, and normal UA. Given elevated WBC and recent 
surgery, CT abdomen/pelvis was performed which demonstrated 
multiple intra-abdominal abscesses, the two largest of which are 
located in the anterior L abdomen and just below the right lobe 
of the liver. The patient does not have any evidence of bowel 
obstruction or perforation. There is no evidence of metastatic 
disease; there is a stable appearing hemangioma in segment 6 of 
the liver (finding reported on atrius CT abdomen ___. 
Pertinent to patient's current hospital visit, he endorses only 
a mild cough with a sensation of something being in the back of 
his throat. He also endorsed some continued abdominal pain 
following his surgery but that he has not appreciated any 
worsening of this recently. He denied any subjective fevers or 
chills, nausea, vomiting, poor stoma function, abdominal 
distention, changes in urinary habits. His appetite has been 
poor recently, but he states that this has not been an acute 
change for him. He does not think he has recently lost weight. 
 
Past Medical History:
myotonic muscular dystrophy, cachexia
 
Social History:
___
Family History:
Family: Father with gallbladder cancer. No known colon cancer or
inflammatory bowel disease.

 
Physical Exam:
Admission PE:
98.2 97 121/81 18 98% RA
Gen: NAD, emaciated
CV: RRR
R: unlabored, mild, intermittent dry cough, clear however
Abd: well healing surgical incision, scaphoid abdomen, 
nontender,
no masses, not distended, stoma is patent and productive of
significant amount of thin brown stool and oral contrast. there
is a small area of skin excoriation below the stoma. there is no
induration or fluctuant.
Ext: no c/c/e

Discharge PE:
VS: AVSS
Gen: well appearing female, NAD
HEENT: no lymphadenopathy, moist mucous membranes
Lungs: CTAB
Heart: rrr
Abd: soft, nt, nd
Incisions: cdi
Extremities: wwp
 
Pertinent Results:
___ 08:43PM   LACTATE-1.4
___ 08:34PM   ___ PTT-28.0 ___
___ 01:40PM URINE  HOURS-RANDOM
___ 01:40PM URINE  HOURS-RANDOM
___ 01:40PM URINE  UHOLD-HOLD
___ 01:40PM URINE  GR HOLD-HOLD
___ 01:40PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 12:00PM   GLUCOSE-96 UREA N-10 CREAT-0.3* SODIUM-133 
POTASSIUM-5.3* CHLORIDE-93* TOTAL CO2-27 ANION GAP-18
___ 12:00PM   estGFR-Using this
___ 12:00PM   ALT(SGPT)-8 AST(SGOT)-14 ALK PHOS-160* TOT 
BILI-0.2
___ 12:00PM   LIPASE-28
___ 12:00PM   ALBUMIN-3.1*
___ 12:00PM   WBC-17.2*# RBC-3.81* HGB-11.5* HCT-34.8* 
MCV-91 MCH-30.2 MCHC-33.0 RDW-15.2 RDWSD-49.8*
___ 12:00PM   NEUTS-85.7* LYMPHS-7.5* MONOS-5.7 EOS-0.4* 
BASOS-0.2 IM ___ AbsNeut-14.77* AbsLymp-1.29 AbsMono-0.98* 
AbsEos-0.07 AbsBaso-0.03
___ 12:00PM   PLT COUNT-745*#

CT Scan ___:
IMPRESSION: 
  
  
1. Post right colectomy with 4 discrete fluid collections: 
infrahepatic 
measuring 4.7 x 2.3 cm, subumbilical measuring 6.6 x 6.0 cm, 
intramesenteric 
measuring 3.1 x 2.3 cm, and deep pelvic measuring 3.3 x 2.3 cm. 
2. Bowel wall thickening at the stoma and just proximal to it 
suggests mild 
enteritis.  The ostomy remains patent. 
3. Enhancing peritoneum suggest peritonitis. 
4. No evidence of leak or perforation. 
  

 
Brief Hospital Course:
Mr. ___ presented to the ED at ___ on ___ for 
complaints of cough and was found to have elevated WBC and on CT 
to have multiple intra-abdominal abscesses. He was started on 
cipro/flagyl and he underwent ___ drainage with placement 
of two drains on ___. He tolerated the procedure well 
without complications (Please see ___ note for further details). 
The patient was then transferred to the floor for monitoring and 
did well.

Neuro:  Pain was well controlled on Tylenol.
CV: Vital signs were routinely monitored during the patient's 
length of stay. There were no cardiovascular issues during his 
stay.
Pulm:  The patient was encouraged to ambulate, sit and get out 
of bed, use the incentive spirometer, and had oxygen saturation 
levels monitored as indicated.
GI: The patient was initially kept NPO after the procedure. The 
patient was later advanced to and tolerated a regular diet at 
time of discharge. 
GU: Patient had a Foley catheter that was removed at time of 
discharge. Urine output was monitored as indicated. At time of 
discharge, the patient was voiding without difficulty.  
ID:  The patient's vital signs were monitored for signs of 
infection and fever. The patient was started on cipro/flagyl and 
told to remain on these antibiotics for two weeks.
Heme: The patient had blood levels checked post operatively 
during the hospital course to monitor for signs of bleeding. The 
patient had vital signs, including heart rate and blood 
pressure, monitored throughout the hospital stay.  
On ___, the patient was discharged to rehab. At discharge, 
he was tolerating a regular diet, passing flatus, stooling, 
voiding, and ambulating independently. He will follow-up in the 
clinic in ___ weeks. This information was communicated to the 
patient directly prior to discharge.  
  
Post-Surgical Complications During Inpatient Admission:  
[ ] Post-Operative Ileus resolving w/o NGT  
[ ] Post-Operative Ileus requiring management with NGT  
[ ] UTI  
[ ] Wound Infection  
[ ] Anastomotic Leak  
[ ] Staple Line Bleed  
[ ] Congestive Heart failure  
[ ] ARF  
[ ] Acute Urinary retention, failure to void after Foley D/C'd  
[ ] Acute Urinary Retention requiring discharge with Foley 
Catheter  
[ ] DVT  
[ ] Pneumonia  
[ ] Abscess  
[x] None  

Social Issues Causing a Delay in Discharge:  
[X] Delay in organization of ___ services  
[ ] Difficulty finding appropriate rehab hospital disposition.  
[ ] Lack of insurance coverage for ___ services  
[ ] Lack of insurance coverage for prescribed medications.  
[ ] Family not agreeable to discharge plan.  
[ ] Patient knowledge deficit related to ileostomy delaying 
dispo
[ ] No social factors contributing in delay of discharge.  

 
Medications on Admission:
None
 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H  
2.  MetroNIDAZOLE 500 mg PO Q8H  
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
intra-abdominal abcesses

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the ___ after presenting to the ED on 
___ for cough. You were found to have an elevated WBC 
count and on CT scan we found multiple abdominal abscesses in 
your abdomen. You were admitted and subsequently had your 
abscesses drained by interventional radiology. You were also 
given antibiotics for your abscesses (ciprofloxacin and flagyl). 
You have recovered from this procedure well and you are now 
ready to return home. You have tolerated a regular diet, passing 
gas and your pain is controlled with pain medications by mouth. 
You may return home to finish your recovery.  

You drains that were placed by interventional radiology have 
been removed. You are being discharged with ciprofloxacin and 
flagyl. You should take these two antibiotics for two weeks.

No heavy lifting for at least 6 weeks after surgery unless 
instructed otherwise by your surgical team. You may gradually 
increase your activity as tolerated but clear heavy exercise 
with your surgical team.
 
You will be prescribed a small amount of the pain medication, 
oxycodone. Please take this medication exactly as prescribed. 
You may take Tylenol as recommended for pain. Please do not take 
more than 3000mg of Tylenol daily. Do not drink alcohol while 
taking narcotic pain medication or Tylenol. Please do not drive 
a car while taking narcotic pain medication.  
 
Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities.

Good luck! 
 

 
Followup Instructions:
___